US07727926B2
Synthesis of 2-(4-t-butylphenylthio)ethylamine
To a stirring mixture of 4.36 g (38.0 mmol) of 2-chloroethylamine hydrochloride and 12.00 g (87.0 mmol) of K2CO3 in 30 mL of CHCl3 was added 4.82 g (29.0 mmol) of 4-t-butylbenzenethiol. The mixture was stirred at 50° C. in a sealed vial overnight. The mixture was washed three times with distilled water, dried with MgSO4 and filtered. Volatiles were removed in vacuo leaving 4.50 g (74%) of clear oil. 1H NMR (300 MHz, CDCl3): δ=7.32, m, 4H; 2.93, m, 4H; 1.42, broad singlet, 2H; 1.30, s, 9H.

reactant | 2-chloroethylamine hydrochloride | 38.0 mmol, 4.36 g | Cl.ClCCN
reactant | K2CO3 | 87.0 mmol, 12.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-t-butylbenzenethiol | 29.0 mmol, 4.82 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-t-butylphenylthio)ethylamine | 4.50 g, 74% | C(C)(C)(C)C1=CC=C(C=C1)SCCN | C12H19NS
